* C:\work\E344\E344\LTSpice\voltageRegulators.asc
C1 N003 0 120µ
C2 LM2595-out 0 120µ
D1 0 N002 1N5819
L1 N002 LM2595-out 100µ
V1 N003 0 9
XU1 N001 0 N003 0 N002 0 LM2595_ADJ_TRANS
C3 LM2595-out N001 10.52n
R1 N001 0 1k
R2 LM2595-out N001 3065
XU2 N004 0 N005 LM7805
C4 N005 0 0.1µ
C5 N004 0 0.33µ
V2 N004 0 9
R3 LM7806 N005 1
.model D D
.lib C:\Users\waltd\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.incl LM2595_ADJ_TRANS.LIB
.tran 0 10m 0 1u
;step param R 50 100 10
.lib C:\work\E344\E344\LTSpice\LM2595_ADJ_TRANS.LIB
.lib C:\work\E344\E344\LTSpice\LM7805.LIB
.backanno
.end
